US07064207B2
6-(Piperidine-1-sulfonyl)-4-trifluoromethyl-1H-quinolin-2-one
Condensation of 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride (Preparation 3, 50 mg, 160 μmol) with piperidine (17 μL, 168 μmol), employing NEt3 (23 μL, 168 μmol) as base as outlined for Example 1, gave the title compound (25 mg, 42%): δH ((CD3)2SO)=1.30–1.40 (m, 2H), 1.50–1.60 (m, 4H), 2.90 (t, 4H), 7.15 (s, 1H), 7.60 (d, 1H), 7.90–8.00 (m, 2H); m/z (ES+)=361.0 [M+H]+.

reactant | 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride | 160 μmol, 50 mg | O=C1NC2=CC=C(C=C2C(=C1)C(F)(F)F)S(=O)(=O)Cl | C10H5ClF3NO3S
reactant | piperidine | 168 μmol, 17 μL | N1CCCCC1 | C5H11N
reactant | NEt3 | 168 μmol, 23 μL | CCN(CC)CC | C6H15N
product | 6-(Piperidine-1-sulfonyl)-4-trifluoromethyl-1H-quinolin-2-one | 25 mg, 42% | N1(CCCCC1)S(=O)(=O)C=1C=C2C(=CC(NC2=CC1)=O)C(F)(F)F | C15H15F3N2O3S
